US08748606B2
Synthesis of tert-butyl 3-(6-chloropyrimidin-4-ylamino)phenylcarbamate
4,6-Dichloropyrimidine (1.5 g, 10 mmol), tert-butyl 3-aminophenylcarbamate (2.1 g, 10 mmol) and triethylamine (2.2 g, 20 mmol) were mixed in ethanol (20 mL), heated at 80° C. for 16 hr. The reaction mixture was cooled to RT and solvent was removed in vacuo. The gummy crude product was mixed with 20 mL of DCM and was stirred at RT to give an off-white solid, which was filtered and dried under vacuum (1.6 g, 5 mmol). MS (m/z): MH+=321, 323.

reactant | 4,6-Dichloropyrimidine | 10 mmol, 1.5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | tert-butyl 3-aminophenylcarbamate | 10 mmol, 2.1 g | NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | triethylamine | 20 mmol, 2.2 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | tert-butyl 3-(6-chloropyrimidin-4-ylamino)phenylcarbamate | ClC1=CC(=NC=N1)NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C15H17ClN4O2
